US06770597B2
Preparation of 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoic Acid, 2-(1,1-dimethylethyloxy)carbonyl Hydrazide (Compound No.1-24)
To a solution of 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoyl chloride (0.5 g) in tetrahydrofuran (20 ml) was added t-butylcarbazate (0.18 g) at ambient temperature. After 1 hour, the resulting mixture was concentrated under reduced pressure and the residue was subjected to column chromatography on silica gel eluted with a mixed solvent of ethyl acetate and hexane (2:3) to give the titled compound (0.48 g).

reactant | 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoyl chloride | 0.5 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H6Cl2F4N2O3
reactant | t-butylcarbazate | 0.18 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoic Acid, 2-(1,1-dimethylethyloxy)carbonyl Hydrazide | 0.48 g | CC(C)(OC(=O)NNC(C1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O)C | C18H17ClF4N4O5
